US05175344
The starting material is manufactured as follows: 5-Methyl-5-vinyl-2-oxazoline-4-carboxylic acid ethyl ester, b.p. 65°-75° (13 Pa) is obtained by reaction of isocyanoacetic acid ethyl ester with methyl vinyl ketone in a manner analogous to that described in Example 30. By hydrolysis of the 5-methyl-5-vinyl-2-oxazoline-4-carboxylic acid ethyl ester in a manner analogous to that described in Example 1, 2-formylamino-3-hydroxy-3-methyl-4-pentenoic acid ethyl ester is obtained. Reaction of the 2-formylamino-3-hydroxy-3 methyl-4-pentenoic acid ethyl ester with thionyl bromide and subsequent treatment with triethyl phosphite in a manner analogous to that described in Example 1 yields E-2-formylamino-3-methyl-5-diethylphosphono-3-pentenoic acid ethyl ester in the form of a colourless liquid.

reactant | 2-formylamino-3-hydroxy-3 methyl-4-pentenoic acid ethyl ester | C(C)OC(C(C(C=C)(C)O)NC=O)=O | C9H15NO4
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
reactant | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
product | E-2-formylamino-3-methyl-5-diethylphosphono-3-pentenoic acid ethyl ester | C(C)OC(C(\C(=C\CP(=O)(OCC)OCC)\C)NC=O)=O | C13H24NO6P
